US07307076B2
e) 7-benzyloxy-5-(2-chloro-acetyl)-1H-quinolin-2-one
7.0 g (23.9 mmol) 5-acetyl-7-benzyloxy-1H-quinolin-2-one and 19.0 g (54.6 mmol) benzyltrimethylammonium dichloriodate are stirred in 43 mL acetic acid, 7 mL water and 147 mL dichloroethane at 65° C. After 4.5 hours the reaction is stopped by the addition of 400 mL sodium carbonate solution and 50 mL 5% sodium bisulphite solution. The insoluble constituents are suction filtered, washed with water and dried.

reactant | 5-acetyl-7-benzyloxy-1H-quinolin-2-one | 23.9 mmol, 7.0 g | C(C)(=O)C1=C2C=CC(NC2=CC(=C1)OCC1=CC=CC=C1)=O | C18H15NO3
reactant | benzyltrimethylammonium dichloriodate | 54.6 mmol, 19.0 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | dichloroethane | 147 mL | ClC(C)Cl | C2H4Cl2
reactant | sodium carbonate | 400 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bisulphite | 50 mL | S([O-])(O)=O.[Na+]
solvent | acetic acid | 43 mL | C(C)(=O)O | C2H4O2
solvent | water | 7 mL | O | H2O
product | 7-benzyloxy-5-(2-chloro-acetyl)-1H-quinolin-2-one | C(C1=CC=CC=C1)OC1=CC(=C2C=CC(NC2=C1)=O)C(CCl)=O | C18H14ClNO3
